US07956064B2
Phosphorus oxychloride (2 mL) was added to the 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-8-carbonitrile (150 mg, 0.66 mmol). The mixture was heated reflux for 3 hours at which time LCMS analysis indicated the absence of any starting material. Volatiles were removed under vacuum and the crude product was dissolved in dichloromethane, washed with brine and saturated aqueous sodium bicarbonate and dried over sodium sulfate. After concentrating under vacuum, the crude product was triturated with ethyl acetate and hexanes to give 5-chlorobenzo[c][2,6]naphthyridine-8-carbonitrile (125 mg). LCMS (ESI) 240.3 (M+1)+.

reactant | Phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-8-carbonitrile | 0.66 mmol, 150 mg | O=C1NC2=C(C3=CN=CC=C13)C=CC(=C2)C#N | C13H7N3O
product | 5-chlorobenzo[c][2,6]naphthyridine-8-carbonitrile | 125 mg | ClC1=NC2=C(C3=CN=CC=C13)C=CC(=C2)C#N | C13H6ClN3
